US04732982
1,2-Dihydro-5-[1-(methoxyimino)pentyl]-6-methyl-2-oxo-3-pyridinecarbonitrile
A mixture of 1,2-dihydro-6-methyl-2-oxo-5-(1-oxopentyl)-3-pyridinecarbonitrile (0.70 g, 0.0032 mol), methoxyamine hydrochloride (0.32 g, 0.0038 mol) and pyridine (2.0 ml) were heated and stirred at reflux in EtOH (30 ml) overnight. The solution was cooled to room temperature and concentrated on the rotary evaporator. The residue was diluted with H2O and the resulting solid collected by filtration. Recrystallization (MeOH-H2O) gave 0.38 g (48%) m.pt. 159-161.

reactant | 1,2-dihydro-6-methyl-2-oxo-5-(1-oxopentyl)-3-pyridinecarbonitrile | 0.0032 mol, 0.70 g | CC1=C(C=C(C(N1)=O)C#N)C(CCCC)=O | C12H14N2O2
reactant | methoxyamine hydrochloride | 0.0038 mol, 0.32 g | Cl.CON
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 30 ml | CCO | C2H6O
product | 1,2-Dihydro-5-[1-(methoxyimino)pentyl]-6-methyl-2-oxo-3-pyridinecarbonitrile | CON=C(CCCC)C=1C=C(C(NC1C)=O)C#N | C13H17N3O2
